US07713994B2
4-[(4-Pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
To a suspension of crude methanesulfonic acid 4-[(1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-benzyl ester (72 mg, 0.23 mmol) in N,N-dimethylformamide (2 mL) is added pyrrolidine (21 μL, 0.25 mmol). The reaction mixture is shaken at ambient temperature for 16 hours. The reaction mixture is diluted to 2 mL with N,N-dimethylformamide and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield the title compound (3.0 mg).

reactant | methanesulfonic acid 4-[(1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-benzyl ester | 0.23 mmol, 72 mg | O=C1NC(C(C2=CC=CC=C12)=CNC1=CC=C(COS(=O)(=O)C)C=C1)=O | C18H16N2O5S
reactant | pyrrolidine | 0.25 mmol, 21 μL | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 3.0 mg | N1(CCCC1)CC1=CC=C(C=C1)NC=C1C(NC(C2=CC=CC=C12)=O)=O | C21H21N3O2
